US07981903B2
to a stirred solution of 1-bromo-2-methyl-5-(methyloxy)-4-nitrobenzene (9 g, 36.6 mmol) in 180 mL of Dioxane was added Pd2(dba)2 (2.14 g, 2.34 mmol), XANTPHOS (2.12 g, 3.65 mmol), cesuim carbonte (50 g, 153.6 mmol) and 1,1-dimethylethyl 1-piperazinecarboxylate (13.6 g, 73.15 mmol). The resulting slurry was warmed to 60° C. for 24 hours. The dioxane was removed under reduced pressure and the crude mixture was taken up in ether and filtered to remove cesium carbonate. The ether was, washed with water, dried (Na2SO4), filtered, and rotovaped down. The crude product was purified by flash chromatography to give 1,1-dimethylethyl 4-[2-methyl-5-(methyloxy)-4-nitrophenyl]-1-piperazinecarboxylate (4.83 g, 13.75 mmol, 38%). 1H NMR (400 MHz, CDCl3) δ ppm 7.81 (s, 1 H), 6.56 (s, 1 H), 3.92 (s, 3 H), 3.52-3.63 (m, 4 H), 2.88-2.99 (m, 4 H), 2.25 (s, 3 H), 1.47 (s, 9 H).

reactant | 1-bromo-2-methyl-5-(methyloxy)-4-nitrobenzene | 36.6 mmol, 9 g | BrC1=C(C=C(C(=C1)OC)[N+](=O)[O-])C | C8H8BrNO3
reactant | XANTPHOS | 3.65 mmol, 2.12 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | 73.15 mmol, 13.6 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | Dioxane | 180 mL | O1CCOCC1 | C4H8O2
product | 1,1-dimethylethyl 4-[2-methyl-5-(methyloxy)-4-nitrophenyl]-1-piperazinecarboxylate | 13.75 mmol, 4.83 g, 38% | CC1=C(C=C(C(=C1)[N+](=O)[O-])OC)N1CCN(CC1)C(=O)OC(C)(C)C | C17H25N3O5
